US04393243
Items 1-6 given in Table 1 hereinafter are carried out following the procedure of Example 1 substituting therein 5 g of 92% α-ionone for the 40 g of 98% α-ionone, 1.3 g (20 mol percent) of cobalt acetate tetrahydrate for the 10.4 g, and 0.7 g, (27 mol percent) of ammonium bromide for the 4.0 g. The amount of solvent substituting for glacial acetic acid and cyclohexane is represented in Table 1 and amounts to 60 ml. The yields of 3,5,5-trimethyl-4-[(E)-3-oxo-1-butenyl]-2-cyclohexen-1-one (3-oxo-α-ionone) are determined by gas chromatography (GC). It will be observed that the sum of all products appearing in the gas chromatogram only amounts to a maximum of about 60% of the total weight. The remainder probably consists of oligomeric by-products. The oxidation conditions are not optimized.

reactant | α-ionone | 5 g | CC1=CCCC(C1/C=C/C(=O)C)(C)C | C13H20O
reactant | α-ionone | 40 g | CC1=CCCC(C1/C=C/C(=O)C)(C)C | C13H20O
reactant | ammonium bromide | [Br-].[NH4+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | cobalt acetate tetrahydrate | 1.3 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 3,5,5-trimethyl-4-[(E)-3-oxo-1-butenyl]-2-cyclohexen-1-one | CC1=CC(CC(C1\C=C\C(C)=O)(C)C)=O | C13H18O2
